US05866576
This example illustrates a synthesis of 1-(3,7-Dimethyl-2,3,6,7-dioxidoctyl)-3,7-dimethylxanthine (inventive compound no. 2552). Sodium hydride (95%) (0.28 g, 12 mmol) was added to a solution of theobromine (2.16 g, 12 mmol) in dimethylsulfoxide (50 mL). After 20 minutes of stirring, geranyl bromide (2.17 g, 10 mmol) was added. After 6 hours of stirring at room temperature, the reaction mixture was warmed to 60° C. for 3 hours and then poured into a separatory funnel containing 150 mL of water and extracted with dichloromethane (5×75 mL). The organic extracts were combined, washed with water (50 mL) and brine (50 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crude product obtained was further purified by flash chromatography over silica gel using 30% acetone/petroleum ether eluant to yield 2.1 g (66.5% yield) 1-(Geranyl)-3,7-dimethylxanthine (inventive compound no. 2545).

reactant | Sodium hydride | 12 mmol, 0.28 g | [H-].[Na+]
reactant | theobromine | 12 mmol, 2.16 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | geranyl bromide | 10 mmol, 2.17 g | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | water | 150 mL | O | H2O
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 1-(Geranyl)-3,7-dimethylxanthine | 2.1 g, 66.5% yield | C(\C=C(/C)\CCC=C(C)C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C17H24N4O2
